US05834471
Ethyl 4-(imidazol-1-yl)benzoate
Imidazole (0.816 g, 0.01 mol), ethyl 4-fluorobenzoate (2 g, 0.01 mol) and anhydrous potassium carbonate (1.43 g, 0.011 mol) was dissolved in DMSO (30 ml) and heated to 90° C. for 18 h. The solution was poured into water (50 ml), extracted with ethyl acetate (50 ml), dried (sodium sulphate), filtered and evaporated to dryness under reduced pressure. The white solid was purified by flash column chromatography (silica, diethyl ether) to afford a white solid (1.22 g, 56%).

reactant | Imidazole | 0.01 mol, 0.816 g | N1C=NC=C1 | C3H4N2
reactant | ethyl 4-fluorobenzoate | 0.01 mol, 2 g | FC1=CC=C(C(=O)OCC)C=C1 | C9H9FO2
reactant | potassium carbonate | 0.011 mol, 1.43 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 50 ml | O | H2O
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
product | Ethyl 4-(imidazol-1-yl)benzoate | 1.22 g, 56% | N1(C=NC=C1)C1=CC=C(C(=O)OCC)C=C1 | C12H12N2O2
